US09382188B2
D) ethyl 3-cyclopropyl-3-(2-((methoxymethoxy)methyl)pyridin-4-yl)acrylate
To a suspension of 60% sodium hydride (1.09 g) in THF (30 mL) was added ethyl diethylphosphonoacetate (6.46 mL) at 0° C., and then cyclopropyl(2-((methoxymethoxy)methyl)pyridin-4-yl)methanone (1.20 g) was added. The reaction mixture was heated under reflux for 2 hr. Water was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.36 g) as a pale-yellow oil.

reactant | sodium hydride | 1.09 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 6.46 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | cyclopropyl(2-((methoxymethoxy)methyl)pyridin-4-yl)methanone | 1.20 g | C1(CC1)C(=O)C1=CC(=NC=C1)COCOC | C12H15NO3
reactant | Water | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 3-cyclopropyl-3-(2-((methoxymethoxy)methyl)pyridin-4-yl)acrylate | 1.36 g | C1(CC1)C(=CC(=O)OCC)C1=CC(=NC=C1)COCOC | C16H21NO4
